Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
mechanical fall from standing 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old female with history of fibromyalgia, asthma who
presents s/p mechanical fall yesterday afternoon. She reports 
she
started sneezing uncontrollably due to seasonal allergies and
started running up the brick stairs in front of her house to get
to the bathroom because she felt an urge to urinate; in this
process, her flip flop caught on a loose brick on the stairs and
she fell forward.  She reports impact to her head, left leg, and
right shoulder.  She denies losing consciousness and the fall 
was
witnessed by her neighbor. She denied any dizziness or
light-headedness before or after the fall.  At that time she had
a headache that has since resolved. She put pressure on the
forehead wound which was bleeding and is now hemostatic.  Later
at dinner, she noticed a sharp pain in her right shoulder, neck,
and upper back. She also reported shooting pins and needles
sensation starting in her neck and going down the outside of her
right arm, up the back of her head and down between her 
scapulae.
She reports mild dullness to sensation in her left arm as well. 
She presented to the ___ where Xrays showed a proximal
humeral fracture and a C5-C6, C6-C7 posterior disc herniation
with a question of cord compression. A head CT and left tib-fib
xray was clear.

 
Past Medical History:
Fibromyalgia
Hypertension
HLD
Asthma

PSH:
Left carpal tunnel release
Bilateral knee surgeries
Colonic polyp removal x 3

 
Social History:
___
Family History:
Brother with intestinal cancer
sister- gastric cancer
+CAD 
 
Physical Exam:
General - NAD in C-collar and right arm
sling in NAD
Neck- mild midline tenderness, c-collar in place
HEENT - small 1cm closed laceration over right forehead, tender
to palpation over scalp around the wound, PERRLA, EOMI, MMM,
sclera anicteric, midface stable, oropharynx clear, no
rhinorrhea/hemotympanum
Cardiovascular - RRR
Chest- CTAB, no increased WOB, normal excursion bilaterally, no
chest wall deformities or crepitus, no chest wall tenderness
Back- no midline tenderness, no stepoffs
GI - abdomen soft, nontender, no rebound or guarding
Skin - warm and dry, ecchymosis on left shin and right hip
Musculoskeletal - tender to palpation over right shoulder, TTP
around ecchymosis on her left shin, and on her right hip with
overlying ecchymosis, pelvis stable
Neuro - CN II-XII grossly intact, ___ arm and grip strength on
left, ___ grip strength on the right, ___ ankle strength in the
RLE and LLE, sensation to light touch intact b/l ___, reports
decreased sensation in RUE compared to LUE

 
Pertinent Results:
___ 02:04AM URINE  HOURS-RANDOM
___ 02:04AM URINE  UHOLD-HOLD
___ 02:04AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:04AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 02:04AM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 02:04AM URINE  HYALINE-9*
___ 02:04AM URINE  MUCOUS-RARE*
___ 01:40AM   GLUCOSE-86 UREA N-19 CREAT-0.9 SODIUM-143 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-24 ANION GAP-16
___ 01:40AM   estGFR-Using this
___ 01:40AM   WBC-14.0* RBC-3.98 HGB-12.9 HCT-40.1 MCV-101* 
MCH-32.4* MCHC-32.2 RDW-13.1 RDWSD-48.6*
___ 01:40AM   NEUTS-56.4 ___ MONOS-7.1 EOS-1.1 
BASOS-0.3 IM ___ AbsNeut-7.91* AbsLymp-4.87* AbsMono-1.00* 
AbsEos-0.15 AbsBaso-0.04
___ 01:40AM   HYPOCHROM-NORMAL ANISOCYT-1+* POIKILOCY-2+* 
MACROCYT-2+* MICROCYT-1+* POLYCHROM-1+* OVALOCYT-1+* 
STIPPLED-1+*
___ 01:40AM   ___ PTT-30.8 ___ hx fibromyalgia, asthma p/w mechanical fall from standing w/ 
C5-C7 posterior disc herniation with cord narrowing, b/l UE 
parasthesias, nondisplaced R humerus fracture. ___ was 
consulted. A pelvic XR was negative. Ortho was consulted and rec 
a sling for the RUE, no lifting heavier than a coffee cup. Ortho 
spine rec c-collar until follow up. Ms. ___ had no surgical 
intervention. She was discharged from the hospital on HD2 in 
stable condition and asked to follow up in ortho and ___ clinic. 

 
Medications on Admission:
1.  Baclofen 10 mg PO DAILY  
2.  Ezetimibe 10 mg PO DAILY  
3.  Omeprazole 20 mg PO DAILY  
4.  Spironolactone 25 mg PO DAILY  

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN BREAKTHROUGH 
PAIN 
RX *oxycodone 5 mg 1 tablet(s) by mouth Q6H:PRN Disp #*10 Tablet 
Refills:*0 
2.  Baclofen 10 mg PO DAILY  
3.  Ezetimibe 10 mg PO DAILY  
4.  Omeprazole 20 mg PO DAILY  
5.  Spironolactone 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
C5-C7 posterior disc herniation with cord narrowing

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ortho: Sling to right upper extremity. No lifting heavier than a 
coffee cup. ok for full range of motion of wrist/elbow. no range 
of motion of shoulder until f/u w ortho.

Spine recs: dispo with ___ (ordered), f/u ___ 2 weeks.

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___